US07612108B2
3-Fluoro-2-hydroxybenzonitrile and N-bromosuccinimide were stirred at room temperature in acetonitrile to obtain 5-bromo-3-fluoro-2-hydroxybenzonitrile. EI: 215, 217.

reactant | 3-Fluoro-2-hydroxybenzonitrile | FC=1C(=C(C#N)C=CC1)O | C7H4FNO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-bromo-3-fluoro-2-hydroxybenzonitrile | BrC=1C=C(C(=C(C#N)C1)O)F | C7H3BrFNO
